US04433152
A mixture of 707 mg of 1-amidino-4-piperidinepropionic acid hydrochloride and 1.1 g of diphenyl sulfite was stirred overnight at room temperature in a solution of 8 ml of dry dimethylformamide and 3 ml of dry pyridine. The solvent was removed under reduced pressure, and the residue was washed twice with 20 ml of ether to give crystals. The crystals were washed with acetone and dissolved in 4 ml of methanol. The resulting solution was added to a solution of 20 ml of ether and 30 ml of acetone to give crystals. The crystals were washed twice with hot ethyl acetate to obtain 643 mg (yield: 69%) of phenyl 1-amidino-4-piperidinepropionate hydrochloride as colorless crystals having a melting point of 167° to 170.5° C.

reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 707 mg | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
reactant | diphenyl sulfite | 1.1 g | S(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C12H10O3S
reactant | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | phenyl 1-amidino-4-piperidinepropionate hydrochloride | 643 mg, yield: 69% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=CC=CC=C1 | InChI=1S/C15H21N3O2.ClH/c16-15(17)18-10-8-12(9-11-18)6-7-14(19)20-13-4-2-1-3-5-13;/h1-5,12H,6-11H2,(H3,16,17);1H
